US03933913
A mixture of 1.56 g. (0.0023 m.) of N,N'-dibenzyl-N,N'-bis[2-(3-carbomethoxy-4-methoxyphenyl)-ethyl]-hexamethylenediamine and 40 ml. of 48% aqueous hydrobromic acid is refluxed for four hours. The cooled reaction mixture is filtered to give N,N'-dibenzyl-N,N'-bis[2-(3-carboxy-4-hydroxyphenyl)-ethyl]-hexamethylenediamine dihydrobromide. The latter is hydrogenated with palladium-on-carbon as described in Example 1 to yield N,N'-bis[2-(3-carboxy-4-hydroxyphenyl)-ethyl]-hexamethylenediamine dihydrobromide. The free base obtained from this dihydrobromide (0.8 g., 0.0018 m.) is added to an ice cold solution of 40 ml. of 1M borane in tetrahydrofuran (0.04 m.) while stirring under nitrogen. The temperature is maintained at 0°C. for 20 hours, the solution is then refluxed for one hour and concentrated in vacuo. Several portions of methanol are added, the solution is concentrated and the residue is dissolved in ethanol and filtered. Sulfuric acid is added to pH 2.0 to give N,N'-bis[2-(4-hydroxy-3-hydroxymethylphenyl)-ethyl]-hexamethylenediamine sulfate.

reactant | N,N'-dibenzyl-N,N'-bis[2-(3-carbomethoxy-4-methoxyphenyl)-ethyl]-hexamethylenediamine | C(C1=CC=CC=C1)N(CCCCCCN(CCC1=CC(=C(C=C1)OC)C(=O)OC)CC1=CC=CC=C1)CCC1=CC(=C(C=C1)OC)C(=O)OC | C42H52N2O6
reactant | hydrobromic acid | Br | BrH
product | N,N'-dibenzyl-N,N'-bis[2-(3-carboxy-4-hydroxyphenyl)-ethyl]-hexamethylenediamine dihydrobromide | Br.Br.C(C1=CC=CC=C1)N(CCCCCCN(CCC1=CC(=C(C=C1)O)C(=O)O)CC1=CC=CC=C1)CCC1=CC(=C(C=C1)O)C(=O)O | InChI=1S/C38H44N2O6.2BrH/c41-35-17-15-29(25-33(35)37(43)44)19-23-39(27-31-11-5-3-6-12-31)21-9-1-2-10-22-40(28-32-13-7-4-8-14-32)24-20-30-16-18-36(42)34(26-30)38(45)46;;/h3-8,11-18,25-26,41-42H,1-2,9-10,19-24,27-28H2,(H,43,44)(H,45,46);2*1H
